** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/testbenches/tb_nandgate.sch
**.subckt tb_nandgate
vA vA avss1p2 PULSE({vdd} 0 0.1n 1p 1p {Tclk/2} {Tclk}) DC 0 AC 0
vB vB avss1p2 PULSE({vdd} 0 0.1n 1p 1p {Tclk} {Tclk*2}) DC 0 AC 0
C1 z avss1p2 10f
v1 avdd1p2 avss1p2 DC{vdd}
v2 avss1p2 0 DC{vss}
x1 avdd1p2 vB vA z avss1p2 nandgate
**** begin user architecture code


* Circuit Parameters
.param vdd = 1.2
.param vss = 0.0
.param Tclk = 10n
.options TEMP = 27.0
* Include Models - IHP SG13G2
.lib cornerMOSlv.lib mos_tt
* OP Parameters & Singals to save
.save all
*Simulations
.control
tran 0.01u 100n
setplot tran1
plot v(vA) v(vB)+1.5 v(z)+3
set filetype = ascii
write dcsweep.raw
.endc
.end


**** end user architecture code
**.ends

* expanding   symbol:  blocks/nandgate/nandgate.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nandgate/nandgate.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nandgate/nandgate.sch
.subckt nandgate vdd vA vB vout vss
*.iopin vout
*.iopin vA
*.iopin vB
*.iopin vdd
*.iopin vss
XM1 vout vA net1 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 vout vA vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM3 net1 vB vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM4 vout vB vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

.end
